US07399759B2
7-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]heptanoic acid
2-(Trimethylsilyl)ethyl 7-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]heptanoate (0.50 g, 1.1 mmol) was dissolved in N,N-dimethylformamide (4 ml), and 1.0 M tetrabutylammonium fluoride solution in tetrahydrofuran (2.6 ml, 2.6 mmol) was added thereto. The reaction mixture was stirred for 30 minutes and concentrated under reduced pressure. Trifluoroacetic acid (5 ml) was added to the residue, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was subjected to a silica gel (40 g) column chromatography. The fractions eluted with hexane-ethyl acetate (1:1, v/v) were collected and concentrated. The residue was recrystallized from ethanol-hexane to give the titled compound (0.24 g, 61%) as white crystals.

reactant | 2-(Trimethylsilyl)ethyl 7-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]heptanoate | 1.1 mmol, 0.50 g | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CCCCCCC(=O)OCC[Si](C)(C)C | C25H32N2O3SSi
reactant | tetrabutylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 2.6 mmol, 2.6 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 7-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]heptanoic acid | 0.24 g, 61% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CCCCCCC(=O)O | C20H20N2O3S
